US04379938
The production of 2,3,5-trichloropyridine by reaction of N-methyl-3,5-dichloro-2-pyridone with phosgene as solvent is known. The process comprises introducing N-methyl-3,5-dichloro-2-pyridone into a toluene solution of phosgene, and heating the mixture in a closed system for 3 hours at 150° C. 2,3,5-Trichloropyridine is obtained in this manner in a yield of about 90% of theory (Ann. Chem. 486, 78-79 (1931)). The N-methyl-3,5-dichloro-2-pyridone required as starting material for carrying out this process is obtainable by reaction of 2-aminopyridine with potassium nitrite in a sulfuric acid solution to 2-pyridone (Arch. Pharm. 240, 250 (1903)), chlorination of this to give 3,5-dichloro-2-pyridone (J. Org. Chem. 23, 1614 (1958)), and subsequent methylation thereof (Ann. Chem. 486, 74 (1931).

reactant | N-methyl-3,5-dichloro-2-pyridone | CN1C(C(=CC(=C1)Cl)Cl)=O | C6H5Cl2NO
reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | potassium nitrite | N(=O)[O-].[K+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-pyridone | N1C(C=CC=C1)=O | C5H5NO
product | 3,5-dichloro-2-pyridone | ClC=1C(NC=C(C1)Cl)=O | C5H3Cl2NO
